US07528260B2
Step A: Preparation of 2-amino-N,3-dimethylbenzamide
A mixture of 8-methyl-2H-3,1-benzoxazine-2,4(1H)-dione (PCT Patent Publication WO 00/27831) (18 g, 0.1 mol) and acetic acid (1.2 g, 0.02 mol) in ethyl acetate (200 mL) was warmed to 35° C., and aqueous methylamine (40%, 9.0 g, 0.12 mol) was added dropwise over 50 minutes at 35-37° C. Then more aqueous methylamine (40%, 0.9 g, 12 mmol) was added, and the mixture was stirred an additional 2.5 h at 36° C. Then water (20 mL) was added, the layers were separated, and the organic layer was washed with water, dried (MgSO4), and evaporated to afford the title compound, 15.45 g (92%).

reactant | 8-methyl-2H-3,1-benzoxazine-2,4(1H)-dione | 0.1 mol, 18 g | CC1=CC=CC=2C(OC(NC21)=O)=O | C9H7NO3
reactant | acetic acid | 0.02 mol, 1.2 g | C(C)(=O)O | C2H4O2
reactant | methylamine | 0.12 mol, 9.0 g | CN | CH5N
reactant | methylamine | 12 mmol, 0.9 g | CN | CH5N
reactant | water | 20 mL | O | H2O
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 2-amino-N,3-dimethylbenzamide | NC1=C(C(=O)NC)C=CC=C1C | C9H12N2O
